Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
codeine / nabumetone / salsalate / Flexeril / diclofenac / 
ibuprofen
 
Attending: ___
 
Chief Complaint:
Bilateral subdural hematomas 
 
Major Surgical or Invasive Procedure:
___: Bilateral burr holes for evacuation of subdural 
hematomas, Left 2; Right 1

 
History of Present Illness:
___ F with several months of progressive gait decline and 
confusion which has been worsening.  The patient reports falling 
multiple times daily. She recently moved in with her daughter 
due to her frequent falls.  She had a fall with head strike 
several weeks ago. She presented to ___ where ___ 
revealed a bilateral SDH L>R. Neurosurgery was consulted for 
recommendations.

On exam in the ED, she complained of intermittent headache, 
balance changes. She feels dizziness leaning forward. Denies LOC 
with her falls, she is able to get up on her own. Denies 
nausea/vomiting.  Has intermittent positional numbness of her 
hands.  Denies weakness.
 
Past Medical History:
COPD
HLD
R foot surgery
R knee patellar fracture
 
Social History:
___
Family History:
Mother ___ stomach CA, father ___ ___ cardiac arrest brother 
age ___ muscular dystrophy
 
Physical Exam:
=============
ON ADMISSION: ___:
=============
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRL        EOMs Full
Neck: Supple.
Lungs: No resp distress
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. Mild 
dysarthria,
no paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength R hamstring 4+/5, otherwise full power ___
throughout. No pronator drift

Sensation: Intact to light touch

Toes downgoing bilaterally

===============
ON DISCHARGE:
===============
Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Forgetful and perseverative 
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL 3-2mm bilaterally 
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     
Speech Fluent: [x]Yes [ ]No - slowed speech
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right___
Left5       5       5       5       5       5

[x]Sensation intact to light touch

Wound: 
[x]Clean, dry, intact 
[x]Staples 
 
Pertinent Results:
Please see OMR for pertinent lab and imaging results.
 
Brief Hospital Course:
Ms. ___ is a ___ year old female who presented with recent 
recurrent falls presenting s/p another fall and NCHCT revealing 
bilateral SDHs. She underwent bilateral burr hole for subdural 
hematoma evacuation (2 on the left, 1 on the right). The 
procedure was uncomplicated and she tolerated it well. Please 
see separately dictated operative report for complete details of 
the procedure. Bilateral subdural drains were placed to EVD set 
up, leveled at the hip. She was extubated in the OR and 
transferred to PACU for recovery. She was started on keppra for 
seizure prophylaxis. Patient was further transferred to the ___ 
on POD #1 for close neurological monitoring. On POD #2 patients 
right sided drain was removed and on POD #3 her left sided 
subdural drain was removed as well. A post-drain pull CTH was 
obtained and revealed stable pneumocephalus and slightly smaller 
SDH. In the early morning on POD #3 patient was found by nursing 
staff to be out of bed, on the floor. A precautionary NCHCT was 
obtained which was stable compared to prior imaging, without an 
acute bleed and continued pneumocephalus. Patient remained 
neurologically stable throughout her stay in the ___. ___ 
evaluated patient and recommended ___ rehab. Patient 
remained neurologically stable throughout hospitalization and 
was discharged to rehab on ___. She completed her seven day 
course of Keppra on that day. Her daughter and patient 
verbalized understanding of all follow up information, including 
staple removal and appointment with Dr ___. 

#Right patellar fracture
Patient had a right patellar fracture prior to admission. She 
was continued in her knee immobilizer and weight bearing as 
tolerated. Patient is scheduled to follow up with her orthopedic 
Dr. ___ on ___. 

 
Medications on Admission:
ProAir HFA 90 mcg/act INH: 2 INH q4h PRN: SOB/Wheeze
simvastatin 
Spiriva 18 mcg and inhalation capsules: 1 inhaled once a day 
multivitamin 
omega 3-dha-epa-fish oil [Fish Oil] 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
3.  Bisacodyl 10 mg PO/PR DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
6.  Senna 8.6 mg PO BID  
7.  Sertraline 50 mg PO DAILY  
8.  Simvastatin 20 mg PO QPM  
9.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
bilateral subdural hematomas

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Surgery

*** You underwent a surgery called a Burr Hole Placement to have 
blood removed from your brain. 
* Please keep your staples along your incision dry until they 
are removed.
* It is best to keep your incision open to air but it is ok to 
cover it when outside. 
* Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity

* We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
* You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
* No driving while taking any narcotic or sedating medication. 
* If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
* No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
* You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

* You may have difficulty paying attention, concentrating, and 
remembering new information.
* Emotional and/or behavioral difficulties are common. 
* Feeling more tired, restlessness, irritability, and mood 
swings are also common.
* You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
* You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
* Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
* Headache is one of the most common symptoms after a brain 
bleed. 
* Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
* Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
* There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

* Severe pain, swelling, redness or drainage from the incision 
site. 
* Fever greater than 101.5 degrees Fahrenheit
* Nausea and/or vomiting
* Extreme sleepiness and not being able to stay awake
* Severe headaches not relieved by pain relievers
* Seizures
* Any new problems with your vision or ability to speak
* Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

* Sudden numbness or weakness in the face, arm, or leg
* Sudden confusion or trouble speaking or understanding
* Sudden trouble walking, dizziness, or loss of balance or 
coordination
* Sudden severe headaches with no known reason

 
Followup Instructions:
___